US06175021B1
A solution of 50 mL (65 mmol) of 1.3M sec-butyl lithium in cyclohexane was added slowly to N-tert-butoxycarbonyl-3-methoxy-2-methylaniline (7.7 g, 32.5 mmol) in 100 mL of THF keeping the temperature below −40° C. with a dry ice-ethanol bath. The bath was removed and the temperature allowed to rise to −10° C. and then the bath replaced. After the temperature had cooled to −60° C., 4.3 g (32.5 mnmol) of N-methoxy-N-methylbutanamide in an equal volume of THF was added dropwise. The reaction mixture was stirred 1 hour, the cooling bath removed and stirred an additional 22 hours. It was then poured into a mixture of 200 mL of ether and 200 mL of 0.5N HCl. The organic layer was separated, washed with brine, dried over MgSO4, and concentrated at reduced pressure to give 9.9 g of crude 1-[2-(tert-butoxycarbonylamino)-6-methoxyphenyl]-2-pentanone. This material was dissolved in 100 mL of methylene chloride and 20 ML of trifluoroacetic acid and stirred for a total of 23 hours. The mixture was washed with water, dried (MgSO4) and concentrated at reduced pressure. The residue was chromatographed on silica gel eluting with 20% EtOAc/hexane to give 2.19 g of 4-methoxy-2-propyl-1H-indole as an oil.

reactant | sec-butyl lithium | 65 mmol, 1.3M, 50 mL | C(C)(CC)[Li]
reactant | N-tert-butoxycarbonyl-3-methoxy-2-methylaniline | 32.5 mmol, 7.7 g | C(C)(C)(C)OC(=O)NC1=C(C(=CC=C1)OC)C | C13H19NO3
reactant | THF | 100 mL | C1CCOC1 | C4H8O
solvent | cyclohexane | C1CCCCC1 | C6H12
product | 1-[2-(tert-butoxycarbonylamino)-6-methoxyphenyl]-2-pentanone | 9.9 g | C(C)(C)(C)OC(=O)NC1=C(C(=CC=C1)OC)CC(CCC)=O | C17H25NO4
